US06583135B2
10-[2-(Cyclopentyloxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
The 3-benzoyl-10-[2-(cyclopentyloxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.73 g, 1.6 mmol), potassium hydroxide (2.07 g, 32.1 mmol), and ethylene glycol (15 mL) were heated to 170° C. for 2.67 hours. The reaction was diluted with water and extracted with ethyl acetate (2×). The organic layers were combined, washed with brine, dried over MgSO4 and concentrated in vacuo to give a brown oil which was passed through a column of silica gel with 3% methanol/chloroform with 1% NH4OH to give 419 mg (74%) of a white foam as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.83 (br s, 1H), 7.35-7.26 (m, 3H), 7.15-7.11 (m, 1H), 7.03-6.96 (m, 2H), 6.91 (d, J=7.2 Hz, 1H), 4.69-4.65 (m, 1H), 3.11-3.07 (m, 2H), 2.99-2.95 (m, 2H), 2.87-2.81 (m, 2H), 2.45-2.39 (m, 2H), 1.73-1.67 (m, 4H), 1.48-1.45 (m, 4H); HRMS (FAB) calcd for C23H26N2O+H1: 347.2123 found 321.2134.

reactant | 3-benzoyl-10-[2-(cyclopentyloxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.6 mmol, 0.73 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)OC1CCCC1 | C30H30N2O2
reactant | potassium hydroxide | 32.1 mmol, 2.07 g | [OH-].[K+]
reactant | ethylene glycol | 15 mL | C(CO)O | C2H6O2
reactant | NH4OH | [NH4+].[OH-]
solvent | water | O | H2O
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | 10-[2-(Cyclopentyloxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C1(CCCC1)OC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C23H26N2O
